US07378432B2
Preparation of 3-(2-Aminoethyl)benzyl alcohol:
To a solution of methyl-3-(cyanomethyl)benzoate (4 grams, 0.023 mol, 1 molequivalent) in 5 ml dry THF, 2M LiBH4 in THF (60 ml, 5 molequivalents) and (MeO)3B (3 ml, 1 molequivalent) were added under nitrogen atmosphere. The reaction mixture was stirred and heated at 70-75° C. for 16-18 hours. After cooling, THF was evaporated, and 2N H2SO4 was added to the residue (to acidify the solution to pH of 1-2). The resulting solution was washed with ether and powdered K2CO3 was added to the aqueous phase until the pH reached 7. NaCl was then added and the solution was extracted with THF. The organic phase was dried over MgSO4 and the solvent was evaporated, to give a 2.3 grams (67%) of a pure product, which was used without purification.

reactant | methyl-3-(cyanomethyl)benzoate | 0.023 mol, 4 grams | COC(C1=CC(=CC=C1)CC#N)=O | C10H9NO2
reactant | (MeO)3B | 3 ml | B(OC)(OC)OC | C3H9BO3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | LiBH4 | 2M | [Li+].[BH4-]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 3-(2-Aminoethyl)benzyl alcohol | 2.3 grams, 67% | NCCC=1C=C(CO)C=CC1 | C9H13NO
